US06982348B2
To a solution of 2-fluoro-4-pyridinecarboxylic acid (10 g, 70.9 mmol) in tetrahydrofuran (150 ml) was added 1,1′-carbonylbis-1H-imidazole (12.7 g, 78.0 mmol), and the mixture was heated under reflux for 30 min. The reaction solution was cooled and monoethyl malonate magnesium salt (11.2 g, 39.0 mmol) was added. The mixture was stirred at room temperature for 30 min. 1N Hydrochloric acid (200 ml) was added to the reaction solution, and the mixture was extracted with ethyl acetate (200 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) and recrystallized from hexane to give ethyl 3-(2-fluoro-4-pyridyl)-3-oxopropionate (7.32 g, 49%).

reactant | 2-fluoro-4-pyridinecarboxylic acid | 70.9 mmol, 10 g | FC1=NC=CC(=C1)C(=O)O | C6H4FNO2
reactant | 1,1′-carbonylbis-1H-imidazole | 78.0 mmol, 12.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | monoethyl malonate magnesium salt | 39.0 mmol, 11.2 g | [Mg+].C(CC(=O)[O-])(=O)OCC
reactant | Hydrochloric acid | 1N, 200 ml | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | ethyl 3-(2-fluoro-4-pyridyl)-3-oxopropionate | 7.32 g, 49% | FC1=NC=CC(=C1)C(CC(=O)OCC)=O | C10H10FNO3
